US08084442B2
A toluene solution containing 0.7 g of ((S)-1-benzylpyrrolidin-3-yl)-(3-fluorophenyl)amine (2.6 mmol), 0.59 g of 4-bromobenzotrifluoride (2.6 mmol), 65 mg of BINAP (0.1 mmol), 23 mg of palladium acetate (0.1 mmol) and 0.28 g of sodium tert-butoxide (2.9 mmol) was heated under reflux under a nitrogen atmosphere for 3 hours. The reaction solution was filtered to remove insoluble matter, and ethyl acetate and water were added to the filtrate to separate the solution into layers. The organic layer was washed with water and dried over magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=20:1→10:1). The eluent solvent was distilled off under reduced pressure to thereby obtain 0.48 g of oily colorless ((S)-1-benzylpyrrolidin-3-yl)-(3-fluorophenyl)-(4-trifluoromethylphenyl)amine.

reactant | ((S)-1-benzylpyrrolidin-3-yl)-(3-fluorophenyl)amine | 2.6 mmol, 0.7 g | C(C1=CC=CC=C1)N1C[C@H](CC1)NC1=CC(=CC=C1)F | C17H19FN2
reactant | 4-bromobenzotrifluoride | 2.6 mmol, 0.59 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | sodium tert-butoxide | 2.9 mmol, 0.28 g | CC(C)([O-])C.[Na+]
catalyst | palladium acetate | 0.1 mmol, 23 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | BINAP | 0.1 mmol, 65 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | ((S)-1-benzylpyrrolidin-3-yl)-(3-fluorophenyl)-(4-trifluoromethylphenyl)amine | 0.48 g | C(C1=CC=CC=C1)N1C[C@H](CC1)N(C1=CC=C(C=C1)C(F)(F)F)C1=CC(=CC=C1)F | C24H22F4N2
